US08871753B2
Step B: Methyl 2-iodo-4-nitrobenzoate
A solution of 2-iodo-4-nitrobenzoic acid (9 g, 30.7 mmol), methanol (88 mL) and sulfuric acid (0.82 mL, 15.4 mmol) was heated to reflux overnight. The reaction solution was cooled down to 0° C. for 30 minutes. The solid was filtered to give the desired product (5.90 g, 62%). LCMS calculated for C8H71NO4(M+H)+: m/z=308.0.

reactant | 2-iodo-4-nitrobenzoic acid | 30.7 mmol, 9 g | IC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4INO4
reactant | sulfuric acid | 15.4 mmol, 0.82 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 88 mL | CO | CH4O
product | Methyl 2-iodo-4-nitrobenzoate | 5.90 g, 62% | IC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C8H6INO4
